US07625880B2
To a 1 L round-bottom flask equipped with a magnetic stir-bar was added dioxane (500 mL) and water (16.5 mL). The solution was heated to 55° C., and selenium dioxide (8.6 g, 77 mmole) was added. The mixture was stirred at 55° C. for one hour, over which time all the selenium dioxide had dissolved. To the solution was then added 2-(4-fluoro-2-methyl-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one. The flask was fitted with a reflux condenser and the resulting slurry heated to a bath temperature of 115° C. After 18 hours, additional selenium dioxide (4.0 g, 36 mmole) was added and stirring continued for 6 hours. The reaction mixture was dark red, with gray metallic selenium lining the sides of the flask. The reaction mixture was cooled to room temperature then filtered through a pad of celite and washed with 10% MeOH/DCM. The filtrate was concentrated in vacuo to produce a gummy red solid. Methanol (50 mL) was added, and the mixture stirred over an ice bath, during which time a flocculent yellow precipitate formed. The solid was isolated by filtration, and washed sparingly with cold methanol to give 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde (3.90 g, 61%) as a bright yellow solid. 1H NMR (400 MHz, DMSO-d6+TFA) δ 10.80 (br s, 1H), 10.70 (br s, 1H), 10.25 (s, 1H), 8.02 (d, 1H, J=8.8 Hz), 7.80 (d, 1H, J=8.8 Hz), 7.57 (dd, 1H, J1=5.5 Hz, J2=8.6 Hz), 7.35 (dd, 1H, J1=3.1 Hz, J2=9.8 Hz), 7.26 (td, 1H, J1=3.1 Hz, J2=8.6 Hz), 4.14 (s, 3H), 2.69 (s, 3H), 2.31 (s, 3H); ESMS (m/z): 365 (M+1)+.

reactant | dioxane | 500 mL | O1CCOCC1 | C4H8O2
reactant | selenium dioxide | 77 mmole, 8.6 g | [Se](=O)=O | O2Se
reactant | 2-(4-fluoro-2-methyl-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)C)N1)C)C | C20H19FN4O
reactant | selenium dioxide | 36 mmole, 4.0 g | [Se](=O)=O | O2Se
reactant | selenium | [Se] | Se
solvent | Methanol | 50 mL | CO | CH4O
solvent | water | 16.5 mL | O | H2O
product | 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde | 3.90 g, 61% | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C=O)C)N1)C)C | C20H17FN4O2
